US06693208B2
4-nitro-2-fluorocinnamic acid (3.32 g, 17 mmol) was dissolved in ethyl acetate (50 mL) and ethanol (10 mL) in the reaction flask of a PAR reactor. Pd/C (100 mg) was added and the reactor charged with 100 psi hydrogen. The reactor was recharged to 100 psi after 3 hours and the reaction stirred overnight. The reaction mixture was filtered through a bed of celite and the product isolated in vacuo, 2.53 g 3-(4-amino-2-fluorophenyl)propionic acid (81.2%).

reactant | 4-nitro-2-fluorocinnamic acid | 17 mmol, 3.32 g | [N+](=O)([O-])C1=CC(=C(C=CC(=O)O)C=C1)F | C9H6FNO4
reactant | ethanol | 10 mL | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 3-(4-amino-2-fluorophenyl)propionic acid | 2.53 g, 81.2% | NC1=CC(=C(C=C1)CCC(=O)O)F | C9H10FNO2
